US07541372B2
Thiophene-2-sulfonic acid {3-methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-amide
To a solution of 3-methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenylamine (200 mg, 0.57 mmol) in tetrahydrofuran (5 mL) were added N,N-diisopropylamine (111 mg, 0.86 mmol), 4-dimethylaminopyridine (7.0 mg, 0.06 mmol) and thiophenesulfonyl chloride (126 mg, 0.69 mmol) and the reaction mixture was stirred at ambient temperature for 4 d. The resulting suspension was extracted with ethyl acetate (20 mL) and the combined organic layers were washed with aqueous sodium carbonate (saturated). Drying over sodium sulfate and purification by chromatography (SiO2, heptane:ethyl acetate:dichloromethane=50:30:20 to 20:60:20) afforded the title compound (95 mg, 33%) as an orange solid. MS: m/e=495.1 [M+H]+.

reactant | 3-methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenylamine | 0.57 mmol, 200 mg | COC=1C=C(C=CC1C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)N | C19H16N4O3
reactant | N,N-diisopropylamine | 0.86 mmol, 111 mg | C(C)(C)NC(C)C | C6H15N
reactant | thiophenesulfonyl chloride | 0.69 mmol, 126 mg | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.06 mmol, 7.0 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | Thiophene-2-sulfonic acid {3-methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-amide | 95 mg, 33% | COC=1C=C(C=CC1C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)NS(=O)(=O)C=1SC=CC1 | C23H18N4O5S2
